US06251907B1
(B) N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl]phthalimide
A solution of diethyl azodicarhoxylate (DEAD, 4.9 g, 28.3 mmol) in THF (50 ml) was added dropwise to a solution of 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butanol (6.9 g, 23.6 mmol), phthalimide (4.16 g, 1.2 eq), and triphenylphosphine (7.4 g, 28.3 mmol) in THF (200 ml) at room temperature. The solution was stirred at room temperature for 24 hours. After the reaction, the solvent was stripped to dryness. The residue was stirred in ether (200 ml) and the insolubles were removed by filtration. The oily residue from concentration of the ether solution was purified by two flash chromatography (SiO2, 75 g, eluted with dichloromethane, DCM, and 1-2% CH3OH in DCM) and (100 g of SiO2, eluted with DCM, 11, and 1% CH3OH in DCM, 1.2 l). Two close compounds were separated and the top compound on TLC (1.6 g) was recrystallized from isopropyl ether to yield 0.76 g of white crystals, m.p. 86-88° C.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butanol | 23.6 mmol, 6.9 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)C(CO)CC)C=C1 | C16H21FN2O2
reactant | phthalimide | 4.16 g, 1.2 eq | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 28.3 mmol, 7.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl]phthalimide | 0.76 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)C(CN2C(C=3C(C2=O)=CC=CC3)=O)CC)C=C1 | C24H24FN3O3
